US06583135B2
Preparation of 6-Fluoro-3-indoleglyoxylic Acid Ethyl Ester
To a solution of 6-fluoroindole (1.18 g, 8.56 mmol) in dry THF (65 mL) at 0° C. under argon was added (COCl)2 (0.93 mL, 10.7 mmol). The reaction mixture was stirred at 0° C. for 2 h and at rt for 15 h. The reaction mixture was cooled to 0° C. and EtOH (0.90 mL, 15.5 mmol) was added. The reaction mixture was stirred at rt for 24 h, then poured into cold satd NaHCO3. The mixture was extracted with EtOAc. The combined EtOAc extracts were washed with satd aq NaHCO3 and brine, dried, and evaporated to give the title compound: TLC Rf=0.48 (19:1 CH2Cl2/Me2CO); MS (ESI−) m/z 234.0; 1H NMR (CDCl3, 300 MHz) δ 10.95 (1H), 8.38 (1H), 8.31 (1H), 7.07 (1H), 4.37 (2H), 1.39 (3H).

reactant | 6-fluoroindole | 8.56 mmol, 1.18 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | (COCl)2 | 10.7 mmol, 0.93 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | EtOH | 15.5 mmol, 0.90 mL | CCO | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | 6-Fluoro-3-indoleglyoxylic Acid Ethyl Ester | C(C)OC(C(=O)C1=CNC2=CC(=CC=C12)F)=O | C12H10FNO3
